Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Morphine / Plastic tape
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with PMHx of chronic 
pancreatitis after partial pancreatectomy ___, multiple 
abdominal surgeries including splenectomy, appendectomy, CCY who 
presents with ___ dull epigastric pain and nausea. She reports 
that the pain has been going on for the last 2.5 weeks that 
feels like her usual pancreatitis pain. The pain is starts at 
the epigastric area, wraps around her upper abdomen "like a 
belt," radiates to her back and then up to the shoulder blades. 
She reports that it is the exact same her other bouts. She 
denies fevers, chills, sweats, recent illness, melena, 
hematochezia. She reports that she is having normal BMs. She 
reports that she has been taking Percocet 1 - 2 tabs per day, 
compazine, and has decreased rested her bowels by eating ensure, 
apple juice, and water. However, given that pain or nausea is 
not improving, she came to the ED for further evaluation. 

In the ED she had a CT that was unchanged and her lipase was not 
elevated. She was given pain control and admitted to the 
hospital for further eval and management. 

ROS: A 10 point ROS was conducted and was negative except as 
above. 
 
Past Medical History:
# recurrent pancreatitis: onset after partial pancreatectomy 
___, became recurrent ___ acute pancreatitis, ERCP with sphincterotomy and stent 
placement in pancreatic duct
- ___ acute episodes, ERCP with stent extension
- ___ acute pancreatitis, ERCP showed no duct stenosis
# hemolytic anemia: reaction to Keflex, treated with  
splenectomy ___.  
# s/p cholecystectomy ___  
# s/p appendectomy ___
# coagulase negative staphylococcus bacteremia secondary to PICC 
line infection ___
# RUE DVT secondary to central line ___, treated with warfarin
# ___ DVT & PE ___ post-op, treated with warfarin 
# rheumatoid arthritis (flares mostly in wrists & ankles)
# asthma: mild intermittent, URI-induced, rarely uses MDI
# hypothyroidism  
# s/p tubal ligation  ___
# depression / anxiety  

 
Social History:
___
Family History:
Father- lung cancer, died at age ___ in ___
sister- ___ 
Mother- osteoporosis, HTN, hypothyroidism, T2DM, chronic pain, 
alive

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
97.9, 137/78, 56, 16, 97%RA
GEN: NAD, laying in bed, pleasant
HEENT: MMM, EOMI, sclera anicteric
NECK: Supple
CV: RRR
RESP: CTAB
ABD: +BS, sfot, TTP in the upper quadrants bilaterally nad 
epigastrum, non-tender in the lower quadrants bilaterally
GU: No foley
SKIN: Warm and dry
EXT: No ___ pitting edema
NEURO: Fluent speech
PSYCH: Good insight, normal affect

 
Pertinent Results:
ADMISSION LABS:
___ 11:45PM BLOOD WBC-11.5* RBC-3.89* Hgb-12.0 Hct-36.0 
MCV-93 MCH-30.8 MCHC-33.3 RDW-13.0 RDWSD-44.0 Plt ___
___ 11:45PM BLOOD Neuts-65.4 ___ Monos-8.9 Eos-0.0* 
Baso-1.0 Im ___ AbsNeut-7.54* AbsLymp-2.82 AbsMono-1.02* 
AbsEos-0.00* AbsBaso-0.12*
___ 11:45PM BLOOD Glucose-139* UreaN-10 Creat-0.9 Na-139 
K-5.0 Cl-102 HCO3-24 AnGap-18
___ 11:45PM BLOOD ALT-15 AST-31 AlkPhos-98 TotBili-0.4
___ 11:45PM BLOOD Albumin-4.4 Calcium-9.8 Phos-4.2# Mg-2.1
___ 11:46PM BLOOD Lactate-1.1

___ 06:45AM BLOOD WBC-8.6 RBC-3.61* Hgb-11.2 Hct-34.0 
MCV-94 MCH-31.0 MCHC-32.9 RDW-13.0 RDWSD-44.5 Plt ___
___ 06:45AM BLOOD Glucose-125* UreaN-1* Creat-0.7 Na-139 
K-4.2 Cl-105 HCO3-25 AnGap-13
___ 06:45AM BLOOD Calcium-9.1 Phos-2.3* Mg-1.8
___ 11:46PM BLOOD Lactate-1.1

IMAGING:
FINDINGS:  
  
LOWER CHEST: Limited assessment of the lung bases demonstrates 
bilateral lower lobe atelectasis with left lower lobe 
bronchiectasis, unchanged since ___.  No mucous 
plugging. There is no evidence of pleural or pericardial 
effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is persistent mild 
intrahepatic biliary duct dilatation with the common bile duct 
measuring 12 mm (previously 12 mm) which is likely related to 
prior cholecystectomy and partial pancreatectomy.  The 
gallbladder is surgically absent with clips in the gallbladder 
fossa.  The portal vein and SMV are patent.  Status post 
hepaticojejunostomy.  The splenic vein has been resected. 
  
PANCREAS:  Patient is status post partial pancreatectomy with 
unchanged mild diffuse dilatation of the main pancreatic duct up 
to 4 mm  (previously 4 mm).  Minimal fat stranding around the 
pancreatic tail is stable. 
  
SPLEEN: Patient is status post splenectomy.  Again seen is a 5.8 
x 5.3 cm 
(previously 6 x 5 cm) accessory spleen.  No focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Patient is 
status post 
hepaticojejunostomy.  Patient's small bowel loops are along the 
right abdomen well ascending colon within the left abdomen, 
unchanged since prior examination.  Small bowel loops 
demonstrate normal caliber, wall thickness, and enhancement 
throughout.  The colon and rectum are within normal limits.  The 
appendix is not visualized, however no secondary signs of acute 
appendicitis. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus is unremarkable.  No large 
adnexal masses 
seen. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR:  Therelationship of the SMA and SMV are reversed, 
nonspecific given the prior surgery.  There is no abdominal 
aortic aneurysm.  No atherosclerotic disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. Stable intra and extrahepatic biliary dilatation with mild 
pancreatic duct dilatation status post partial pancreatectomy, 
splenectomy, cholecystectomy, and hepaticojejunostomy. 
2. Findings suspicious for malrotation of bowel.  No 
obstruction. 
3. No acute intra-abdominal process to explain patient's 
symptoms. 

 
Brief Hospital Course:
___ year old woman with PMHx of chronic pancreatitis after 
partial pancreatectomy ___, multiple abdominal surgeries 
including splenectomy, appendectomy, CCY who presents with ___ 
dull epigastric pain and nausea consistent with past episodes of 
pancreatitis.
 
# Acute on Chronic Pancreatitis: Patient has gone several months 
since her last flare and it is unclear what triggers these 
flares.  She denies drinking.  She was hospitalized for six 
days, and on day four was able to start taking clears and by the 
time of discharge she was taking full liquids.  She was given 
Percocet tablet rx on discharge to manage her pain at home.   
She is quite knowledgeable about her condition and how to manage 
it (she has managed several flares at home).  She should f/u 
with her PCP and GI doctor ___.  

# Depression: Continued home Citalopram

# Hypothyroidism: Continued home  Levothyroxine

# Insomnia: Continued home trazodone

# Anxiety: Continued home lorazepam

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Levothyroxine Sodium 175 mcg PO DAILY 
3. Lorazepam 1 mg PO BID:PRN anxiety 
4. TraZODone 25 mg PO QHS:PRN insomnia 
5. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H pain 
6. Prochlorperazine 5 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Acute on chronic pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain due to a 
flare of your pancreatitis.  As before, you improved by not 
eating and by getting iv fluids and pain medications.  Slowly 
advance your diet at home and avoid fatty/spicy foods.
 
Followup Instructions:
___